US09359345B2
To a suspension of nicotinic acid (2.00 g, 16.2 mmol) in water (250 mL) was added concentrated sulfuric acid (1 mL, 18.8 mmol) and the mixture stirred under nitrogen to form a clear solution. Pivalic acid (1.83 g, 17.9 mmol) was added and stirring under nitrogen at ambient temperature continued for 10 minutes. Silver nitrate (125 mg, 0.74 mmol) was added followed by ammonium persulfate (295 mg, 1.3 mmol), the flask wrapped in aluminum foil to exclude light and the mixture heated to 90° C. under nitrogen. After 2 hours the reaction mixture was cooled to ambient temperature and the aqueous mixture concentrated in vacuo to a colorless solid. The solid was triturated with tetrahydrofuran and filtered. The solid residue was retriturated with methanol and filtered. Both filtrates were combined and concentrated in vacuo. The crude product was purified by reverse phase chromatography using a 85 g C-18 column gradient eluted from 10% acetonitrile in water to 100% acetonitrile. The product containing fractions were combined and concentrated in vacuo. The residue was lyophilized from water to give 6-tert-butylnicotinic acid as a colorless solid (139 mg, 4%).

reactant | nicotinic acid | 16.2 mmol, 2.00 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | sulfuric acid | 18.8 mmol, 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | Pivalic acid | 17.9 mmol, 1.83 g | C(C(C)(C)C)(=O)O | C5H10O2
reactant | ammonium persulfate | 1.3 mmol, 295 mg | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | water | 250 mL | O | H2O
solvent | aluminum | [Al] | Al
catalyst | Silver nitrate | 0.74 mmol, 125 mg | [N+](=O)([O-])[O-].[Ag+]
product | 6-tert-butylnicotinic acid | 139 mg, 4% | C(C)(C)(C)C1=NC=C(C(=O)O)C=C1 | C10H13NO2
